US08278343B2
Preparation 23: 6-(4-Chloro-phenyl)-pyridin-3-ol
The title compound was prepared according to the method described for Preparation 17 using 4-chlorophenylboronic acid and 2-bromo-5-hydroxypyridine to afford the title compound as an off-white solid (1.3 g, 73%)

reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 2-bromo-5-hydroxypyridine | BrC1=NC=C(C=C1)O | C5H4BrNO
product | 6-(4-Chloro-phenyl)-pyridin-3-ol | 1.3 g, 73% | ClC1=CC=C(C=C1)C1=CC=C(C=N1)O | C11H8ClNO
